US07790724B2
b) 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonitrile
To a solution of 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde (1.5 g, 6.6 mmol) in 5 mL of MeOH was added hydroxylamine (0.6 mL, 9.1 mmol, 50% aqueous soln) and the reaction stirred for 10 min at RT and then concentrated. The residue was dissolved in 10 mL of DCM and 5 mL of pyridine and cooled in an ice bath. To this mixture was added trifluoroacetic anhydride (4.2 g, 20 mmol) and the reaction stirred for 8 h at RT. The mixture was concentrated and then dissolved in EtOAc (50 mL) and washed with NaHCO3 (2×50 mL) and brine (50 mL). The organic layer was dried (Na2SO4) and concentrated to give 1.2 g (81%) of a brown oil of sufficient purity to use in the next step. 1H-NMR (CDCl3, 400 MHz): δ 7.28 (s, 2H), 5.48 (s, 2H), 3.56 (m, 2H), 0.96 (m, 2H), 0.00 (s, 9H). Mass spectrum (APCI, m/z): Calcd. for C10H17N3OSi, 224.1 (M+H), found 223.6.

reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | 6.6 mmol, 1.5 g | C[Si](CCOCN1C(=NC=C1)C=O)(C)C | C10H18N2O2Si
reactant | hydroxylamine | 9.1 mmol, 0.6 mL | NO | H3NO
reactant | trifluoroacetic anhydride | 20 mmol, 4.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonitrile | 1.2 g, 81% | C[Si](CCOCN1C(=NC=C1)C#N)(C)C | C10H17N3OSi
